US07452909B2
4-(1-Benzyl-2-methyl-1H-imidazol-4-ylethynyl)-2-methyl-pyridine
The title compound, MS: m/e=288.1 (M+H30), was prepared in accordance with the general method of example 1 from 2-methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine and benzylbromide.

reactant | 2-methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | CC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C12H11N3
reactant | benzylbromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 4-(1-Benzyl-2-methyl-1H-imidazol-4-ylethynyl)-2-methyl-pyridine | C(C1=CC=CC=C1)N1C(=NC(=C1)C#CC1=CC(=NC=C1)C)C | C19H17N3
